US04952583
To a solution of 10.7 g (48.1 mmol) of 1-[5-(1,1-dimethylethyl)-2-hydroxy-4-methoxyphenyl]ethanone in 250 ml of methylene chloride was added 8.11 g (50.7 mmol) of bromine. The reaction mixture was stirred at ambient temperature for 2 hours. Water (500 ml) was added. The organic phase was separated, washed with saturated aqueous sodium bicarbonate, dried and evaporated. The residue was filtered through 150 g of silica gel using 10:90 (v/v) ether:hexane as eluent. There was obtained 8.70 g (28.8 mmol, 60%) of 1-[3-bromo-5-(1,1-dimethylethyl)-2-hydroxy-4-methoxyphenyl]ethanone as white crystals after crystallization from hexane; mp 69°-71° C.

reactant | 1-[5-(1,1-dimethylethyl)-2-hydroxy-4-methoxyphenyl]ethanone | 48.1 mmol, 10.7 g | CC(C)(C)C=1C(=CC(=C(C1)C(C)=O)O)OC | C13H18O3
reactant | bromine | 50.7 mmol, 8.11 g | BrBr | Br2
reactant | Water | 500 ml | O | H2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-bromo-5-(1,1-dimethylethyl)-2-hydroxy-4-methoxyphenyl]ethanone | 28.8 mmol, 8.70 g, 60% | BrC=1C(=C(C=C(C1OC)C(C)(C)C)C(C)=O)O | C13H17BrO3
